US09290468B2
Step 13: 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-hydroxyethoxy)benzo[d]thiazole-6-carboxamide
To a solution of 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d]thiazole-6-carboxamide (503 mg, 1.03 mmol) in CH2Cl2 (10 mL) was added 1.0 N HCl (aq., 5 mL, 5 mmol). After stirring for 1 h, the reaction mixture was neutralized with saturated NaHCO3 (aq.). The aqueous layer was washed with CH2Cl2 (30 mL). The combined organic layer was washed with water (30 mL×2) and brine (30 mL), dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (CH2Cl2/MeOH, 50:1, v/v) and gave the desired product as a white solid (420 mg, 75.9% yield for the two steps). 1H NMR (400 MHz, DMSO-d6): δ 11.75 (s, 1H), 9.53 (s, 1H), 8.23 (s, 1H), 8.14 (s, 1H), 7.56 (d, m, 1H), 7.33 (m, 1H), 6.50 (m, 1H), 4.75 (m, 1H), 3.83 (m, 2H), 3.58 (m, 2H). MS: m/z 461.9, [M+H].

reactant | 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d]thiazole-6-carboxamide | 1.03 mmol, 503 mg | FC1=C(C(=CC2=C1N=CS2)C(=O)NOCCOC=C)NC2=C(C=C(C=C2)Br)Cl | C18H14BrClFN3O3S
reactant | HCl | 5 mmol, 1.0 N, 5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-hydroxyethoxy)benzo[d]thiazole-6-carboxamide | 75.9% yield | FC1=C(C(=CC2=C1N=CS2)C(=O)NOCCO)NC2=C(C=C(C=C2)Br)Cl | C16H12BrClFN3O3S
